US09102688B2
7-Chloro-8-nitroquinoline (Intermediate 40)
In a similar fashion using route 10 general procedure 20, 3-chloro-2-nitroaniline (1.0 g, 5.8 mmol), glycerol (1.65 g, 18.0 mmol), 3-nitrobenzensulfonic acid sodium salt (1.66 g, 7.5 mmol) and H2SO4/H2O (12 ml, 7:5) gave the title compound (490 mg, 40%) which was used in the next step without purification.

reactant | 3-chloro-2-nitroaniline | 5.8 mmol, 1.0 g | ClC=1C(=C(N)C=CC1)[N+](=O)[O-] | C6H5ClN2O2
reactant | glycerol | 18.0 mmol, 1.65 g | OCC(O)CO | C3H8O3
reactant | 3-nitrobenzensulfonic acid sodium salt | 7.5 mmol, 1.66 g | [Na+].[N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
reactant | H2SO4 H2O | 12 ml | OS(=O)(=O)O.O
product | 7-Chloro-8-nitroquinoline | 490 mg, 40% | ClC1=CC=C2C=CC=NC2=C1[N+](=O)[O-] | C9H5ClN2O2
